US09029545B2
3-Chloro-N-{2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-benzenesulfonamide
To a stirred solution of 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (Description 4) (100 mg, 0.352 mmol) in THF (2 mL), cooled in an ice bath, was added LiHMDS (1M solution in THF) (0.774 mL, 0.774 mmol). The reaction mixture was stirred at RT for 1 h before the addition of 3-chlorobenzenesulfonyl chloride (0.124 mL, 0.879 mmol). The reaction mixture was then stirred at RT for a further 12 h. The reaction mixture was then diluted with water (15 mL) and the aqueous layer extracted with DCM (3×30 mL). The combined organic extracts were dried over a phase separating column and concentrated. Purification by chromatography on silica gel, eluting with a gradient of 0-20% ethyl acetate in cyclohexane, afforded a solid which was dissolved in the minimum amount of DCM. Upon addition of diethyl ether, a solid precipitated out which was collected by filtration, washed with diethyl ether and dried, to afford the title compound (89 mg). LCMS (A) m/z: 459 [M+1]+, Rt 1.03 min (basic).

reactant | 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.352 mmol, 100 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C16H16N2OS
reactant | LiHMDS | 0.774 mmol, 1M, 0.774 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-chlorobenzenesulfonyl chloride | 0.879 mmol, 0.124 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-Chloro-N-{2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-benzenesulfonamide | 89 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1)C)SC(=C2C2=CC(=CC=C2)OC)C | C22H19ClN2O3S2
